US05578627
To a solution of 1 g of 5-chloro-3-(2-formylaminopentyloxy)-1,2-benzoisoxazole in 10 ml of tetrahydrofuran is dropwise added 10.1 ml of a tetrahydrofuran solution (1.0M) of diborane with ice-cooling over ten minutes, and they are further subjected to reaction at room temperature for one hour. Subsequently, 5 ml of methanol is added with ice-cooling, and thereafter, 10 ml of 6N hydrochloric acid is added thereto, and after stirring for one hour, the solvent is removed by distillation under reduced pressure. Ethyl acetate and water are added to the residue obtained, the pH is adjusted to 8 with a 10% (w/w) aqueous sodium hydroxide solution, and the organic layer is separated. The separated organic layer is washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and thereafter concentrated to about 20 ml under reduced pressure. Thereto is added 5 ml of a dioxane solution (2.2N) of hydrogen chloride, and the crystals precipitated are collected by filtration, to obtain 0.6 g of colorless, crystalline 5-chloro-3-(2-methylaminopentyloxy)-1,2-benzoisoxazole hydrochloride having a melting point of 152.9°-154.8° C.

reactant | 5-chloro-3-(2-formylaminopentyloxy)-1,2-benzoisoxazole | 1 g | ClC=1C=CC2=C(C(=NO2)OCC(CCC)NC=O)C1 | C13H15ClN2O3
reactant | diborane | B#B | B2
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0M, 10.1 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 5-chloro-3-(2-methylaminopentyloxy)-1,2-benzoisoxazole hydrochloride | Cl.ClC=1C=CC2=C(C(=NO2)OCC(CCC)NC)C1 | InChI=1S/C13H17ClN2O2.ClH/c1-3-4-10(15-2)8-17-13-11-7-9(14)5-6-12(11)18-16-13;/h5-7,10,15H,3-4,8H2,1-2H3;1H
